US09447106B2
Step 1: (E)-2-(4-(Dimethylamino)-2-oxobut-3-enyl)isoindoline-1,3-dione
To a solution of 2-(2-oxopropyl)isoindoline-1,3-dione (1 g, 4.9 mmol) in 20 mL of DMF-DMA was added some of 4 A molecular sieve. The reaction mixture was stirred at 100° C. under N2 for 15 hr. After cooling down to RT, the mixture was filtered and collected 600 mg (47.5%) of crude (E)-2-(4-(dimethylamino)-2-oxobut-3-enyl) isoindoline-1,3-dione as a solid. MS (ESI) m/e [M+1]+ 259.1.

reactant | 2-(2-oxopropyl)isoindoline-1,3-dione | 4.9 mmol, 1 g | O=C(CN1C(C2=CC=CC=C2C1=O)=O)C | C11H9NO3
solvent | DMF-DMA | 20 mL | CN(C)C(OC)OC | C5H13NO2
product | (E)-2-(4-(Dimethylamino)-2-oxobut-3-enyl)isoindoline-1,3-dione | CN(/C=C/C(CN1C(C2=CC=CC=C2C1=O)=O)=O)C | C14H14N2O3
